US05116402
Preparation of 2-(dichloro-methyl)-4-(hydroxy-methyl)-dioxolan
To a mixture of 5.5 g of 2-(trichloro-methyl)-4-(hydroxy-methyl)-dioxolan and 30 ml of acetic acid under stirring 1.6 g of zinc dust are added within 30 minutes. After a further 15 minutes of stirring the reaction mixture is distilled.

reactant | 2-(trichloro-methyl)-4-(hydroxy-methyl)-dioxolan | 5.5 g | ClC(C1OCC(O1)CO)(Cl)Cl | C5H7Cl3O3
catalyst | zinc | 1.6 g | [Zn] | Zn
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-(dichloro-methyl)-4-(hydroxy-methyl)-dioxolan | ClC(C1OCC(O1)CO)Cl | C5H8Cl2O3
